************************************************************************
* auCdl Netlist:
* 
* Library Name:  MyLibPDK45
* Top Cell Name: myFA
* View Name:     schematic
* Netlisted on:  Dec  3 15:23:59 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myInverter45
* View Name:    schematic
************************************************************************

.SUBCKT myInverter45 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myFA
* View Name:    schematic
************************************************************************

.SUBCKT myFA A B Cin Cout S
*.PININFO A:I B:I Cin:I Cout:O S:O
MM11 net35 Cin net068 vdd! PMOS_VTL W=180n L=50n m=1
MM10 net068 A net069 vdd! PMOS_VTL W=180n L=50n m=1
MM9 net069 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM8 net35 net79 net42 vdd! PMOS_VTL W=180n L=50n m=1
MM7 net42 Cin vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM6 net42 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM5 net42 A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM4 net79 A net071 vdd! PMOS_VTL W=180n L=50n m=1
MM3 net071 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM2 net79 Cin net7 vdd! PMOS_VTL W=180n L=50n m=1
MM1 net7 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM0 net7 A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM23 net60 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM22 net64 A net60 gnd! NMOS_VTL W=90n L=50n m=1
MM21 net35 Cin net64 gnd! NMOS_VTL W=90n L=50n m=1
MM20 net65 Cin gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM19 net65 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM18 net65 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM17 net35 net79 net65 gnd! NMOS_VTL W=90n L=50n m=1
MM16 net12 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM15 net79 A net12 gnd! NMOS_VTL W=90n L=50n m=1
MM14 net4 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM13 net4 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM12 net79 Cin net4 gnd! NMOS_VTL W=90n L=50n m=1
XI10 net35 S / myInverter45
XI9 net79 Cout / myInverter45
.ENDS

